US05998433
b) Synthesis of (Z)-N,N-dimethyl-[6-[3,5-bis(trifluoromethyl)stilbene-4'-carbonyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
(Z)-N,N-Dimethyl-[6-[3,5-bis(trifluoromethyl)stilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.694 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with hexane to yield the desired product.

reactant | (Z)-N,N-Dimethyl-[6-[3,5-bis(trifluoromethyl)stilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.694 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=C(\C=C/C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)C=C2)O1 | C27H24F6N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-N,N-dimethyl-[6-[3,5-bis(trifluoromethyl)stilbene-4'-carbonyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=C(\C=C/C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)C=C2)O1 | InChI=1S/C27H24F6N2O2.ClH/c1-34(2)15-23-13-20-9-10-35(16-24(20)37-23)25(36)19-7-5-17(6-8-19)3-4-18-11-21(26(28,29)30)14-22(12-18)27(31,32)33;/h3-8,11-14H,9-10,15-16H2,1-2H3;1H/b4-3-;
